US07410966B2
1-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]-3-pyrrolidin-1-ylpropan-2-ol
To a solution of 6-bromo-2-[4-(oxiran-2-ylmethoxy)phenyl]-3H-imidazo[4,5-b]pyridine (119 mg, 0.35 mmol) in DMF (8 ml), pyrrolidine (144 μl, 1.73 mmol) was added. The mixture was heated at 85° C. for 10 h. 5% Aqueous ammonium chloride was added and the mixture was extracted with ethyl acetate. The organic phase was filtered and concentrated. Purification by flash chromatography on silica using methylene chloride/methanol/ammonia as eluent afforded the title compound (35 mg, 24%).

reactant | 6-bromo-2-[4-(oxiran-2-ylmethoxy)phenyl]-3H-imidazo[4,5-b]pyridine | 0.35 mmol, 119 mg | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCC2OC2 | C15H12BrN3O2
reactant | pyrrolidine | 1.73 mmol, 144 μl | N1CCCC1 | C4H9N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 1-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]-3-pyrrolidin-1-ylpropan-2-ol | 35 mg, 24% | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(OCC(CN1CCCC1)O)C=C2 | C19H21BrN4O2
